US08242175B2
An oven-dried MW tube was charged with Pd2(dba)3 (592 mg, 0.65 mmol), K3PO4 (1.92 g, 9.06 mmol) and (2′-dicyclohexylphosphanyl-biphenyl-2-yl)-dimethyl-amine (127 mg, 0.32 mmol). The tube was purged and backfilled with N2 and then 1-(3-chloro-phenyl)-ethanone (1 g, 6.47 mmol), (2R,6S)-2,6-dimethyl-piperazine (886 mg, 7.76 mmol) and DME (10 ml) were added. The mixture was heated in a MW apparatus for 4 h at 100° C. and then further Pd2(dba)3 (592 mg, 0.65 mmol) and (2′-dicyclohexylphosphanyl-biphenyl-2-yl)-dimethyl-amine (127 mg, 0.32 mmol) were added. The reaction mixture was heated to 100° C. for additional 10 h and then the solid was filtered off over a Celite pad. The filtrate was diluted with AcOEt and extracted with 1 M HCl. The aqueous phase was brought to basic conditions with NH4OH and extracted with AcOEt. The organic phase was dried over Na2SO4 and evaporated in vacuo. The crude reaction mixture was purified by column chromatography (eluent: AcOEt/MeOH 8:2) to give 226 mg of 1-[3-((3R,5S)-3,5-dimethyl-piperazin-1-yl)-phenyl]-ethanone.

reactant | K3PO4 | 9.06 mmol, 1.92 g | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
reactant | (2′-dicyclohexylphosphanyl-biphenyl-2-yl)-dimethyl-amine | 0.32 mmol, 127 mg | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=CC=C1)N(C)C)C1CCCCC1 | C26H36NP
reactant | 1-(3-chloro-phenyl)-ethanone | 6.47 mmol, 1 g | ClC=1C=C(C=CC1)C(C)=O | C8H7ClO
reactant | (2R,6S)-2,6-dimethyl-piperazine | 7.76 mmol, 886 mg | C[C@H]1N[C@H](CNC1)C | C6H14N2
reactant | (2′-dicyclohexylphosphanyl-biphenyl-2-yl)-dimethyl-amine | 0.32 mmol, 127 mg | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=CC=C1)N(C)C)C1CCCCC1 | C26H36NP
catalyst | Pd2(dba)3 | 0.65 mmol, 592 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
catalyst | Pd2(dba)3 | 0.65 mmol, 592 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | DME | 10 ml | COCCOC | C4H10O2
product | 1-[3-((3R,5S)-3,5-dimethyl-piperazin-1-yl)-phenyl]-ethanone | 226 mg | C[C@@H]1CN(C[C@@H](N1)C)C=1C=C(C=CC1)C(C)=O | C14H20N2O
